US05128356
Methyl 2-amino-5-methylbenzoate
A mixture of 2-amino-5-methyl benzoic acid (10 g) in methanol (50 ml) containing conc. sulfuric acid (5.5 ml) was heated for 19 hours under reflux. The solvent was distilled off, and the residue was dissolved in water. The solution was neutralized with an aqueous sodium hydroxide, followed by extraction with ethyl acetate. The organic layer was dried and concentrated to afford a pale brown oil (8.1 g, 74%).

reactant | 2-amino-5-methyl benzoic acid | 10 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | sulfuric acid | 5.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 ml | CO | CH4O
product | Methyl 2-amino-5-methylbenzoate | 8.1 g, 74% | NC1=C(C(=O)OC)C=C(C=C1)C | C9H11NO2
